US04051254
3-methyl-4-(ethoxyacetamido)phenyl N-methylcarbamate
According to the procedure of Example 5, 3-methyl-4-aminophenyl N-methylcarbamate was reacted with ethoxyacetyl chloride to yield the desired product m.p. 118°-21° C.

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | ethoxyacetyl chloride | C(C)OCC(=O)Cl | C4H7ClO2
product | 3-methyl-4-(ethoxyacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(COCC)=O)C)=O | C13H18N2O4
